US07935688B2
(7) Synthesis of 4′-{1-ethyl-1-[4-((E)-3-ethyl-3-hydroxy-1-pentenyl)-3-methyl-phenyl]-propyl}-2′-methyl-biphenyl-3-carboxylic Acid
Tetrakis(triphenylphosphine)palladium (0) (6.8 mg, 0.0059 mmol), 3-carboxyphenylborane acid (6.8 mg, 0.0195 mmol) and potassium carbonate (13.4 mg, 97.5 μmol) were added to a solution of trifluoromethanesulfonic acid 4-{1-ethyl-1-[4-((E)-3-ethyl-3-hydroxy-1-pentenyl)-3-methyl-phenyl]-propyl}-2-methyl-phenyl ester (Example 1-(6); 10 mg, 0.0195 mmol) in N,N-dimethylformamide (0.5 mL) at room temperature, and then the mixture was stirred at 80° C. for five minutes. Water was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by preparative TLC (chloroform/methanol=8/3, saturated with water) to give the title compound (5.6 mg, 60%).

reactant | 3-carboxyphenylborane | 0.0195 mmol, 6.8 mg | C(=O)(O)C=1C=C(C=CC1)B | C7H7BO2
reactant | potassium carbonate | 97.5 μmol, 13.4 mg | C([O-])([O-])=O.[K+].[K+]
reactant | trifluoromethanesulfonic acid 4-{1-ethyl-1-[4-((E)-3-ethyl-3-hydroxy-1-pentenyl)-3-methyl-phenyl]-propyl}-2-methyl-phenyl ester | 0.0195 mmol, 10 mg | C(C)C(CC)(C1=CC(=C(C=C1)\C=C\C(CC)(O)CC)C)C1=CC(=C(C=C1)OS(=O)(=O)C(F)(F)F)C | C27H35F3O4S
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium | 0.0059 mmol, 6.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4′-{1-ethyl-1-[4-((E)-3-ethyl-3-hydroxy-1-pentenyl)-3-methyl-phenyl]-propyl}-2′-methyl-biphenyl-3-carboxylic Acid | 5.6 mg, 60% | C(C)C(CC)(C1=CC(=C(C=C1)\C=C\C(CC)(O)CC)C)C1=CC(=C(C=C1)C1=CC(=CC=C1)C(=O)O)C | C33H40O3
